US06933387B2
(10aR)-3-(9-Bromo-3,4,10,10a-tetrahydro-1H-pyrazino[1,2-a]indol-2-ylmethyl)-oxazolidin-2-one
(10aR)-9-Bromo-1,2,3,4,10,10a-hexahydro-pyrazino[1,2-a]indole (0.10 g, 0.39 mmol) and 2-oxazolidinone (34 mg, 0.43 mmol) were dissolved in dichloromethane (5 mL). Formaldehyde (32 μL of a 36.5% solution in water) was added and the solution was stirred for 3 h at room temperature. The solvent was removed after drying with MgSO4. Chromatography on silica gel (dichloromethane/ethylacetate 3:1) yielded the desired product (114 mg, 82%), MS: m/e=352.3 (M+H+).

reactant | (10aR)-9-Bromo-1,2,3,4,10,10a-hexahydro-pyrazino[1,2-a]indole | 0.39 mmol, 0.10 g | BrC=1C=2C[C@H]3N(C2C=CC1)CCNC3 | C11H13BrN2
reactant | 2-oxazolidinone | 0.43 mmol, 34 mg | O1C(NCC1)=O | C3H5NO2
reactant | Formaldehyde | C=O | CH2O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (10aR)-3-(9-Bromo-3,4,10,10a-tetrahydro-1H-pyrazino[1,2-a]indol-2-ylmethyl)-oxazolidin-2-one | 114 mg, 82% | BrC=1C=2C[C@H]3N(C2C=CC1)CCN(C3)CN3C(OCC3)=O | C15H18BrN3O2
